US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-formylprop-1-yloxy)phenyl]benzamide (507 mg) and (carbethoxymethylene)triphenylphosphorane (418 mg) in tetrahydrofuran (20 ml) was stirred at ambient temperature overnight and the solvent was evaporated in vacuo. The oily residue was purified by silica gel column (chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-ethoxycarbonyl-4-penten-1-yloxy)phenyl]benzamide (435 mg) as a colorless amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-formylprop-1-yloxy)phenyl]benzamide | 507 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCC=O)C)C=C1 | C32H30N2O4
reactant | (carbethoxymethylene)triphenylphosphorane | 418 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-ethoxycarbonyl-4-penten-1-yloxy)phenyl]benzamide | 435 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCC=CC(=O)OCC)C)C=C1 | C36H36N2O5
